US07595316B2
Production of 2-(1-cyclopentylpiperidin-4-yloxy)-5-(1H-pyridin-2-on-1-yl)pyrimidine
Potassium carbonate (40 mg) and copper iodide (40 mg) were added to a DMF solution (5 ml) of 2-(1-cyclopentylpiperidin-4-yloxy)-5-bromopyrimidine (130 mg) and 1H-pyridin-2-one (19 mg), and stirred at 150° C. for 3 hours. The reaction mixture was cooled to room temperature, water was added to it and extracted with ethyl acetate. The organic layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (C-300, chloroform:methanol=9:1) to obtain the entitled compound (11 mg).

reactant | Potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 2-(1-cyclopentylpiperidin-4-yloxy)-5-bromopyrimidine | 130 mg | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)Br | C14H20BrN3O
reactant | 1H-pyridin-2-one | 19 mg | N1C(C=CC=C1)=O | C5H5NO
catalyst | copper iodide | 40 mg | [Cu](I)I
solvent | water | O | H2O
product | 2-(1-cyclopentylpiperidin-4-yloxy)-5-(1H-pyridin-2-on-1-yl)pyrimidine | 11 mg | C1(CCCC1)N1CCC(CC1)OC1=NC=C(C=N1)N1C(C=CC=C1)=O | C19H24N4O2
